Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Wellbutrin / sertraline / allopurinol / Uloric
 
Attending: ___.
 
Chief Complaint:
hematuria 
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ woman with myeloproliferative disorder/MDS overlap 
syndrome with massive splenomegaly and splenic infarcts s/p 
splenic radiation, hx of a PICC-associated DVT, presented with 
hematuria and severe anemia. 

Ms. ___ reports she's been having hematuria starting last 
night and throughout today. She reports she was having frank 
blood ___ times every hour and went to see her hematologist this 
morning for a platelet transfusion. However she continued to 
have hematuria and was referred to the ED for further 
evaluation. She does report urinary frequency, however no 
dysuria. She feels week but is without headache, nausea, 
vomiting, melena, hematochezia, CP, SOB, dizziness or 
lightheadedness. 

In the ED, her vital signs were unremarkable (soft BP 105/43). 
Her exam was notable for a pale appearing patient in no acute 
distress. She has a systolic murmur, other regular rate and 
rhythm and a normal pulmonary, abdominal and skin exam. 

Labs were notable for profound neutropenia and pancytopenia (hb 
in the 5s with baseline ___. 

Hematology was consulted who recommended transfusion and 
hemolysis labs. 

Urology was consulted who recommended checking a UA and culture 
to rule out infection as source of hematuria and refer to 
urology for outpt hematuria workup given high risk with 
pancytopenia. 
 
Past Medical History:
- ___: Her white blood cell count was 38,000, 
differential showed immature myeloid forms. There was mild 
basophilia and hypersegmented neutrophils. The remainder of her 
CBC was unremarkable. The CBC was repeated and the results are 
similar and an urgent referral to Hematology was placed.  
- ___: First hematology visit. Presentation 
initially appeared consistent with chronic phase CML. However, 
the BCR-ABL PCR and the JAK2 mutation analysis were negative.  
- ___: Bone marrow Bx which showed markedly 
hypercellualrl marrow for age with trilenage hematopoiesis with 
increased megas, 0% blasts, concerning for MPN. Cytogenetics 
showed a ___ female karyotype and the FISH MDS panel was 
negative for the common cytogenetic abnormalities observed  
within myelodysplastic syndrome. There was no FISH evidence of 
BCR-ABL gene rearrangement. Flow cytometry was performed, which 
showed a 1% subset of blasts, that expressed CD34, CD33, HLA-TR 
and lacked CD19, CD14, and CD56. Additional testing for SETBP1 
and CSF3R were negative, these are mutations sometimes seen with 
atypical CML and also chronic neutrophilic leukemia. As she was 
symptomatic, she was put on hydrea 500 mg daily and allopurinol.
- ___: Underwent eye surgery. The following day, she 
developed diarrhea and rash. 
- ___: Admitted to ___ and transferred to 
___
on the next day. The patient was in septic shock and admitted to
the MICU. Further workup showedpneumonia. During her
hospitalization, white blood cell count rose to greater than
100,000 and was felt to be consistent with a leukemoid reaction. 
In the hospital, she had a massive upper GI bleed and had a 
bleeding duodenal ulcer that was treated with laser coagulation. 
She was discharged to a rehab facility on ___. She 
started Jakafi at some point AFTER discharge.
- ___ through ___: She was readmitted to ___
with another massive GI bleed and the duodenal ulcer was found 
to be bleeding again. She was re-treated with thermal 
coagulation and endoclips and then had gastroepiploic 
embolization by interventional radiology. She is transfused 
multiple units of PRBCs. She aspirated and required intubation 
in the ICU and was treated with broad-spectrum antibiotics. 
___ was stopped during this admission.
- ___ by Dr ___ was not feeling well, dehydrated  
and weak. He changed hydrea to 500mg five times per week while 
holding ___.
- ___: Referred to Dr. ___. There was concern for 
transformation to acute leukemia and presence of tumor lysis was 
recommended patient be admitted for urgent bone marrow biopsy 
and possible induction chemotherapy. ___ had a long planned 
trip to CA and declined admission.  
- ___: Repeat bone marrow bx by Dr. ___ dry tap no 
aspirate obtained. peripheral blasts 2%. BM core markedly 
hypercellular (90-100%) myeloid predominant c/w known 
myeloproliferative neoplasm. Normal myeloid maturation and no 
morphologic evidence of transformation. CD34 stain highlights 
rare scattered cells representing <5% cellularity.
- ___ through ___: Did well on hydrea monotherapy
- ___: WBC increased from 29 to 61 with 7% blasts. Sent to 
ED for CTA chest for elevated DDimer but negative. 
- ___: Repeat marrow overall unchanged, with 1% blasts and 
negative cytogenetics/FISH workup. Myeloid sequencing = SRSF2 
inframe insertion R94dup; CRLF2 exon 3 frameshift deletion 
F107fs; KRAS A146V; RUNX1 L161P; and CUX1 exon 12 splice  
acceptor loss. 
- ___: Seen by ___ team (Dr. ___, recommended HMA
- ___: Started C1D1 Vidaza

Myeloproliferative disorder  
Hypertension 
Diabetes mellitus type 2 
COPD 
Hypothyroidism 
Hypercholesterolemia 
Depression 
NASH 
breast cancer s/p lumpectomy and adjuvant radiation
 
Social History:
___
Family History:
Mother died at ___ from cardiac disease. 
Father died at ___ from CAD, had h/o CVA at ___. 
Sister died of CAD in ___. 
No significant family history of malignancy.
 
Physical Exam:
ADMISSION PHYSICAL EXAM: 
Afebrile, HR 91, BP 101/63, RR 22, O2 Sat 98% on RA
GENERAL: chronically ill appearing, cachectic, NAD 
HEENT: Sclera anicteric, MMM, oropharynx clear  
NECK: JVP not elevated, no LAD  
LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Tachycardic, regular, no murmurs appreciate
ABD: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly  
EXT: 2+ edema of RLE, mild edema of left. Warm 
SKIN: large ecchymotic area over right upper forearm 
NEURO: A+Ox3, CN2-12 intact.  
ACCESS: CVL

DISCHARGE PHYSICAL EXAM:
Vitals: Temp: 98.4 PO BP: 119/63 HR: 78 RR: 18 O2
sat: 99% O2 delivery: RA  
GENERAL: Elderly woman, in no acute distress, sitting up in bed.
HEENT: Anicteric, PERRL, OP clear.
CARDIAC: RRR, normal s1/s2, systolic ejection murmur, JVP not 
elevated 
LUNGS: bibasilar crackles
ABD: Soft, non-tender to palpation, positive bowel sounds.
EXT: Warm, well perfused, no lower extremity edema, erythema or 
tenderness.
NEURO: A&Ox3
SKIN: No significant rashes.
 
Pertinent Results:
ADMISSION LABS
================
___ 09:16AM BLOOD WBC-0.3* RBC-1.81* Hgb-5.7* Hct-16.9* 
MCV-93 MCH-31.5 MCHC-33.7 RDW-18.7* RDWSD-61.1* Plt Ct-<5*
___ 09:16AM BLOOD Neuts-29* Bands-0 ___ Monos-12 
Eos-3 Baso-6* ___ Myelos-0 Blasts-0 NRBC-2* 
AbsNeut-0.09* AbsLymp-0.15* AbsMono-0.04* AbsEos-0.01* 
AbsBaso-0.02
___ 09:16AM BLOOD Hypochr-NORMAL Anisocy-2+* Poiklo-2+* 
Macrocy-NORMAL Microcy-NORMAL Polychr-2+* Tear Dr-1+*
___ 09:16AM BLOOD Plt Smr-RARE* Plt Ct-<5*
___ 09:16AM BLOOD Glucose-139* UreaN-23* Creat-0.9 Na-137 
K-4.0 Cl-96 HCO3-24 AnGap-17
___ 09:16AM BLOOD ALT-10 AST-29 LD(LDH)-606* AlkPhos-65 
TotBili-2.4* DirBili-0.4* IndBili-2.0
___ 09:16AM BLOOD TotProt-7.5 Albumin-4.2 Globuln-3.3 
Phos-3.6 Mg-1.7 UricAcd-5.5
___ 09:16AM BLOOD Hapto-<10*
___ 09:16AM BLOOD Free T4-1.2

IMAGING
================
CXR ___
In comparison with the study of ___, there is little overall 
change.  
Cardiac silhouette remains at the upper limits of normal or 
mildly enlarged with minimal if any vascular congestion.  No 
evidence of acute focal pneumonia. 

___ BLADDER ULTRASOUND
1.  No hydronephrosis or calculi.  No renal mass demonstrated as 
on the CT 
done previously, a more sensitive exam for renal masses. 
2.  Post void residual of 97 cc. 
3.  Known retroperitoneal adenopathy and splenomegaly, partially 
seen. 

CXR ___
Comparison to ___.  No relevant change is noted.  
Borderline size of the heart.  Bilateral basal parenchymal 
opacities.  A skin fold on the right should not be mistaken for 
a pneumothorax.  There is no evidence of pneumonia, pulmonary 
edema, or pleural effusion 

BONE MARROW BIOPSY ___
PERSISTANT INVOLVEMENT BY THE PATIENT'S KNOWN
MYELODYSPLASTIC/MYELOPROLIFERATIVE NEOPLASM; SEE NOTE.
Note: Cellular bone marrow core biopsy with marked fibrosis (MF 
grade 2 of 3) and erythroid predominant trilineage hematopoiesis 
with scant myeloid elements. By immunohistochemistry, CD34 and 
CD117 highlight myeloblasts and immature myeloid elements 
comprising less than 5% of the total cellularity. E-cadherin 
highlights clusters of early erythroid
precursors. CD42b highlights clusters of abnormal 
megakaryocytes, including micromegakaryocytes.

DISCHARGE LABS
================
___ 06:50AM BLOOD WBC-0.6* RBC-2.26* Hgb-6.7* Hct-20.1* 
MCV-89 MCH-29.6 MCHC-33.3 RDW-19.0* RDWSD-58.4* Plt Ct-28*
___ 06:50AM BLOOD Neuts-20* Bands-3 Lymphs-61* Monos-5 
Eos-8* Baso-3* ___ Myelos-0 AbsNeut-0.14* 
AbsLymp-0.37* AbsMono-0.03* AbsEos-0.05 AbsBaso-0.02
___ 06:50AM BLOOD Glucose-95 UreaN-18 Creat-0.7 Na-145 
K-4.5 Cl-107 HCO3-23 AnGap-15
___ 06:50AM BLOOD ALT-13 AST-13 LD(LDH)-752* AlkPhos-52 
TotBili-1.1
___ 06:50AM BLOOD Calcium-8.2* Phos-3.9 Mg-2.___RIEF SUMMARY
=============
___ w/ MDS/MPN overlap (recent decitabine, hydrea & splenic 
XRT), T2DM, HTN, HFpEF, COPD (no home O2) who presented w/ 
progressive pancytopenia and new hemolysis and hemoglobinuria of 
unclear etiology with profound transfusion requirement.

ACTIVE ISSUES
=============
#PANCYTOPENIA
#HEMOLYTIC ANEMIA
Patient presented with fatigue and malaise. Work up notable for 
pancytopenia (___ nadir 90), hemolysis and hemoglobinuria. 
Peripheral smear showed only rare schistocytes. Direct and 
indirect Coombs tests were negative. Bone marrow biopsy showed 
marked fibrosis with myeloblasts consisting of <5% of 
cellularity. The etiology of the hemolysis remained unclear. 
Based on workup, unlikely to be immune-mediated hemolysis, 
drug-mediated or transfusion reaction. Tickborne workup showed 
negative babesia and lyme. She required ICU level care and 
received multiple units of blood products, and her hemolysis 
spontaneously resolved. She was transferred out of the ICU and 
started on acyclovir and fluconazole for prophylaxis given her 
low cell counts. She was discharged with plan for close follow 
up in ___ with repeat labs and transfusions PRN.

#Hemoglobinuria
Likely iso of hemolysis. Seen by urology in the ED with no 
urgent intervention indicated. GU ultrasound WNL. Had been on 
ceftriaxone in the ICU, which was discontinued when urine 
cultures came back negative.

CHRONIC/STABLE ISSUES
======================
#Type II Diabetes Mellitus: held home metformin. ISS while 
inpatient. Metformin was restarted on discharge.

#Chronic Diastolic Heart Failure: received intermittent Lasix 
during admission while receiving transfusions. She was 
discharged on her home PO Lasix 20mg.

#Hypothyroidism: continued home levothyroxine

#Hyperlipidemia: held simvastatin given concern for hemolysis. 

#COPD: continued home Spiriva

#Depression: continued home Lexapro

RESOLVED ISSUES
===================
#Anion gap metabolic acidosis -- resolved

#Hypokalemia -- resolved 

#Coagulopathy -- resolved

TRANSITIONAL ISSUES
=====================
[ ] Acyclovir 400mg BID was started for prophylaxis
[ ] Fluconazole 400mg QD was started for prophylaxis 
[ ] Ciprofloxacin 500mg BID was started for prophylaxis
*Prescriptions for these medications were faxed to your pharmacy 
for your convenience.

[ ] Home simvastatin was stopped.

FOLLOW UP
=========
[ ] Next appointment will be ___ as noted above. EKG 
should be rechecked for QTc monitoring (patient on multiple 
medications that may be QTc prolonging). Also needs labs checked 
for transfusions as needed. 

# Communication: HCP: ___ (niece) ___, 
Alternate HCP ___ ___
# Code: DNR/DNI
 
Medications on Admission:
1. ClonazePAM 0.25 mg PO Q8H:PRN anxiety 
2. Furosemide 20 mg PO BID 
3. Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -400 unit oral DAILY 
4. Escitalopram Oxalate 5 mg PO DAILY 
5. Levothyroxine Sodium 88 mcg PO DAILY 
6. MetFORMIN (Glucophage) 850 mg PO DAILY 
7. Multivitamins 1 TAB PO DAILY 
8. OxyCODONE (Immediate Release) 5 mg PO Q8H:PRN Pain - Moderate 

9. Pantoprazole 40 mg PO Q24H 
10. Simvastatin 5 mg PO 3X/WEEK (___) 
11. Tiotropium Bromide 1 CAP IH DAILY 
12. Vitamin D ___ UNIT PO DAILY 

 
Discharge Medications:
1.  Acyclovir 400 mg PO BID 
RX *acyclovir 400 mg 1 tablet(s) by mouth twice a day Disp #*60 
Tablet Refills:*0 
2.  Ciprofloxacin HCl 500 mg PO BID 
RX *ciprofloxacin HCl [Cipro] 500 mg 1 tablet(s) by mouth twice 
a day Disp #*60 Tablet Refills:*0 
3.  Fluconazole 400 mg PO Q24H 
RX *fluconazole 200 mg 2 tablet(s) by mouth daily Disp #*60 
Tablet Refills:*0 
4.  Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -400 unit oral DAILY  
5.  ClonazePAM 0.25 mg PO Q8H:PRN anxiety  
6.  Escitalopram Oxalate 5 mg PO DAILY  
7.  Furosemide 20 mg PO DAILY  
8.  Levothyroxine Sodium 88 mcg PO DAILY  
9.  MetFORMIN (Glucophage) 850 mg PO DAILY  
10.  Multivitamins 1 TAB PO DAILY  
11.  OxyCODONE (Immediate Release) 5 mg PO Q8H:PRN Pain - 
Moderate  
12.  Pantoprazole 40 mg PO Q24H  
13.  Tiotropium Bromide 1 CAP IH DAILY  
14.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY
-------
#Pancytopenia 
#Hemolysis 
#Myeloproliferative disorder/myelodysplastic syndrome
#Hemoglobinuria
#Hyperuricemia

SECONDARY
-----------
#Chronic Diastolic Heart Failure
#Type II Diabetes Mellitus
#Cancer-Related Abdominal Pain
#Hypothyroidism
#Hyperlipidemia
#COPD
#Depression
#Anion gap metabolic acidosis
#Hypokalemia
#Coagulopathy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms ___,

You presented to ___ because you were having 
blood in your urine.

While in the hospital, you received several transfusions of 
blood products. Your urine color improved, and you began to feel 
better.

After leaving the hospital, it is important that you continue 
taking your medications as prescribed and follow up with your 
doctors in ___.

We wish you the best,

Your ___ medicine team
 
Followup Instructions:
___